US05021191
A mixture liquid of the above (R)-1-benzyloxy-2-hexyloxy-propane (25 g),palladium/carbon catalyst (2.0 g) and ethanol (200 ml) was subjected to hydrogenolysis. After completion of the reaction, the catalyst was filtered off, followed by concentrating the mother liquor, and distilling the concentrate under reduced pressure to obtain (R)-2-hexyloxy-1-propanol (b.p. 67°-68° C./4 mmHg) (11.6 g).

reactant | (R)-1-benzyloxy-2-hexyloxy-propane | 25 g | C(C1=CC=CC=C1)OC[C@@H](C)OCCCCCC | C16H26O2
catalyst | palladium/carbon | 2.0 g | [Pd] | Pd
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | (R)-2-hexyloxy-1-propanol | 11.6 g | C(CCCCC)O[C@@H](CO)C | C9H20O2
